US08012976B2
N-Methyl-3-nitropyridin-4-amine
To a suspension of 4-chloro-3-nitropyridine (2 g, 12.6 mmol) in dichloromethane (15 mL) was cautiously added methyl amine (25% solution in water, 10 mL, 63 mmol). The reaction mixture was heated to 40° C. After stirring for 1 h, the mixture was poured into water (20 mL), and the precipitate was collected by filtration and dried in vacuo to afford the title compound (1.9 g, yield 98%) as a yellow solid. LC-MS (ESI) m/z: 154 (M+1)+.

reactant | 4-chloro-3-nitropyridine | 12.6 mmol, 2 g | ClC1=C(C=NC=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | methyl amine | 63 mmol, 10 mL | CN | CH5N
reactant | water | 20 mL | O | H2O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | N-Methyl-3-nitropyridin-4-amine | 1.9 g, yield 98% | CNC1=C(C=NC=C1)[N+](=O)[O-] | C6H7N3O2
